US07789482B2
Into a four-neck flask equipped with a stirrer, a cooling tube, and a nitrogen gas inlet tube was charged 350 parts of butyl acetate and the whole was heated to 105° C. Under introduction of nitrogen gas, a mixture of 31 parts of methacrylic acid, 129 parts of methyl methacrylate, 40 parts of stearyl methacrylate, and 5 parts of benzoyl peroxide as an initiator was added dropwise over a period of 2 hours. After the copolymerization was continued for 2 hours with maintaining the same temperature, butyl acetate was removed by distillation to obtain an acrylic copolymer resin having a weight-average molecular weight of 11,000 and an acid value of 100 mgKOH/g.

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
reactant | stearyl methacrylate | C(C(=C)C)(=O)OCCCCCCCCCCCCCCCCCC | C22H42O2
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | acrylic copolymer resin | CCCCC(CC)COC(=O)C=C.CCCCOC(=O)C=C | InChI=1S/C11H20O2.C7H12O2/c1-4-7-8-10(5-2)9-13-11(12)6-3;1-3-5-6-9-7(8)4-2/h6,10H,3-5,7-9H2,1-2H3;4H,2-3,5-6H2,1H3
